### PR TITLE
freudenthal

### PR DESCRIPTION
**Pull request by ecavallo**

### CODE REVIEW

File: Cubical/Foundations/HLevels.agda [hunk 1]
```diff
@@ -38,6 +38,9 @@ isOfHLevel 0 A = isContr A
 isOfHLevel 1 A = isProp A
 isOfHLevel (suc (suc n)) A = (x y : A) → isOfHLevel (suc n) (x ≡ y)
 
+isOfHLevelMap : (n : ℕ) {A : Type ℓ} {B : Type ℓ'} (f : A → B) → Type (ℓ-max ℓ ℓ')
```
Comment (mortberg) [inline Cubical/Foundations/HLevels.agda:41]: How about calling this `isOfHLevelFun`?

File: Cubical/Homotopy/Connected.agda [hunk 2]
```diff
@@ -0,0 +1,118 @@
...
+open import Cubical.Foundations.GroupoidLaws
+open import Cubical.Foundations.Path
+open import Cubical.Foundations.Univalence
+open import Cubical.Data.Nat
+open import Cubical.Data.Sigma
+open import Cubical.HITs.Nullification
+open import Cubical.HITs.Truncation as Trunc
+
+private
+  -- these belong somewhere else
```
Comment (mortberg) [inline Cubical/Homotopy/Connected.agda:19]: How about in Foundation.Prelude or Foundation.Path?

File: Cubical/Homotopy/Connected.agda [hunk 3]
```diff
@@ -0,0 +1,118 @@
...
+  flipSquare sq i j = sq j i
+
+  flipSquarePath : ∀ {ℓ} {A : Type ℓ}
+    {a₀₀ a₀₁ : A} {a₀₋ : a₀₀ ≡ a₀₁}
+    {a₁₀ a₁₁ : A} {a₁₋ : a₁₀ ≡ a₁₁}
+    {a₋₀ : a₀₀ ≡ a₁₀} {a₋₁ : a₀₁ ≡ a₁₁}
+    → Square a₀₋ a₁₋ a₋₀ a₋₁ ≡ Square a₋₀ a₋₁ a₀₋ a₁₋
+  flipSquarePath = isoToPath (iso flipSquare flipSquare (λ _ → refl) (λ _ → refl))
+
+  fiber≡ : ∀ {ℓ ℓ'} {A : Type ℓ} {B : Type ℓ'} {f : A → B} {b : B} (h h' : fiber f b)
```
Comment (mortberg) [inline Cubical/Homotopy/Connected.agda:36]: I'm not sure where this should go... Maybe Foundation.Fibration as it already contain some lemmas about `fiber`?

File: Cubical/Homotopy/Freudenthal.agda [hunk 4]
```diff
@@ -0,0 +1,131 @@
...
+open import Cubical.HITs.Nullification
+open import Cubical.HITs.Susp
+open import Cubical.HITs.Truncation as Trunc
+open import Cubical.Homotopy.Connected
+open import Cubical.Homotopy.WedgeConnectivity
+
+private
+  -- This alternative definition of rCancel will make the proof smoother
+
+  rCancel-filler' : ∀ {ℓ} {A : Type ℓ} {x y : A} (p : x ≡ y) → (i j k : I) → A
```
Comment (mortberg) [inline Cubical/Homotopy/Freudenthal.agda:23]: Upstream to GroupoidLaws?

File: Cubical/Homotopy/Freudenthal.agda [hunk 5]
```diff
@@ -0,0 +1,131 @@
...
+        (λ a b →
+          ( (σ b ≡ p → hLevelTrunc 2n+2 (fiber (λ x → merid x ∙ merid a ⁻¹) p))
+          , isOfHLevelPi 2n+2 λ _ → isOfHLevelTrunc 2n+2
+          ))
+        (λ a r → ∣ a , (rCancel' (merid a) ∙ rCancel' (merid (pt A)) ⁻¹) ∙ r ∣)
+        (λ b r → ∣ b , r ∣)
+        (funExt λ r →
+          cong ∣_∣
+            (cong (pt A ,_)
+              (cong (_∙ r) (rCancel' (rCancel' (merid (pt A)))) ∙ lUnit r ⁻¹)))
```
Comment (mortberg) [inline Cubical/Homotopy/Freudenthal.agda:58]: Is there some reason to do `cong` 3 times in a row instead of just once with the composite of the functions?

Comment (ecavallo) [reply Cubical/Homotopy/Freudenthal.agda:58]: I think I was getting yellow otherwise

Comment (mortberg) [reply Cubical/Homotopy/Freudenthal.agda:39]: Maybe cong' would have helped: https://github.com/agda/cubical/blob/master/Cubical/Foundations/Path.agda#L16

**Comment by aljungstrom** [comment]
Fantastic! Thanks for this!

File: Cubical/Homotopy/Freudenthal.agda (hunk 5 above)
Comment (ecavallo) [reply Cubical/Homotopy/Freudenthal.agda]: That worked to combine the outer two. The inner one is still separate because the shape is cong (...) (cong (...) (...) ∙ lUnit r ⁻¹).

Comment (mortberg) [reply Cubical/Homotopy/Freudenthal.agda]: Cool!

**Comment by mortberg** [comment]
I fixed the conflicts and added Cubical/Homotopy/Everything.agda to the Makefile
